US08633173B2
2-Chloro-8-([1-(4-fluoro-phenyl)1H-pyrazol-4-yl]-[1,2,4]triazolo[1,5-a]pyridine was prepared from 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine and 1-(4-fluorophenyl)pyrazole-4-boronic acid in a manner analogous to Example 2c (0.45 g, 67%).

reactant | 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine | BrC=1C=2N(C=CC1)N=C(N2)Cl | C6H3BrClN3
reactant | 1-(4-fluorophenyl)pyrazole-4-boronic acid | FC1=CC=C(C=C1)N1N=CC(=C1)B(O)O | C9H8BFN2O2
product | [1-(4-fluoro-phenyl)1H-pyrazol-4-yl]-[1,2,4]triazolo[1,5-a]pyridine | FC1=CC=C(C=C1)N1N=CC(=C1)C1=NN2C(C=CC=C2)=N1 | C15H10FN5
